US07741347B2
Step 1: (S)-1-Phenylethyl 2-bromo-2-phenylacetate:
To a mixture of α-bromophenylacetic acid (10.75 g, 0.050 mol), (S)-(−)-1-phenylethanol (7.94 g, 0.065 mol) and DMAP (0.61 g, 5.0 mmol) in dry dichloromethane (100 mL) was added solid EDCI (12.46 g, 0.065 mol) all at once. The resulting solution was stirred at room temperature under Ar for 18 hours and then it was diluted with ethyl acetate, washed (H2O×2, brine), dried (Na2SO4), filtered, and concentrated to give a pale yellow oil. Flash chromatography (SiO2/hexane-ethyl acetate, 4:1) of this oil provided the title compound (11.64 g, 73%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.53-7.17 (m, 10H), 5.95 (q, J=6.6 Hz, 0.5H), 5.94 (q, J=6.6 Hz, 0.5H), 5.41 (s, 0.5H), 5.39 (s, 0.5H), 1.58 (d, J=6.6 Hz, 1.5H), 1.51 (d, J=6.6 Hz, 1.5H).

reactant | α-bromophenylacetic acid | 0.050 mol, 10.75 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | (S)-(−)-1-phenylethanol | 0.065 mol, 7.94 g | C1(=CC=CC=C1)[C@H](C)O | C8H10O
reactant | EDCI | 0.065 mol, 12.46 g | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 5.0 mmol, 0.61 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-Phenylethyl 2-bromo-2-phenylacetate | 11.64 g, 73% | BrC(C(=O)O[C@@H](C)C1=CC=CC=C1)C1=CC=CC=C1 | C16H15BrO2
